US05789595
0.43 g of 2-[2-(ethoxycarbonyl)-1-methylethyl]-7-nitro-1,2,3,4-tetrahydroisoquinoline was dissolved in 10 ml of ethanol, and 1.23 g of tin chloride dihydrate was added to the solution. The solution was heated under reflux for 30 minutes to allow for the reaction to take place. The resulting solution was made basic by adding saturated aqueous solution of sodium bicarbonate, and the insoluble content was separated by using celite. The solution was extracted with ethyl acetate, washed with saturated aqueous solution of sodium chloride, and dried with anhydrous sodium sulfate. After separating the desiccant by filtration, the residue was concentrated under reduced pressure to obtain 0.36 g of 7-amino-2-[2-(ethoxycarbonyl)-1-methylethyl]-1,2,3,4-tetrahydroisoquinoline, which was a brown oily product (yield: 93%).

reactant | 2-[2-(ethoxycarbonyl)-1-methylethyl]-7-nitro-1,2,3,4-tetrahydroisoquinoline | 0.43 g | C(C)OC(=O)CC(C)N1CC2=CC(=CC=C2CC1)[N+](=O)[O-] | C15H20N2O4
reactant | tin chloride dihydrate | 1.23 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 7-amino-2-[2-(ethoxycarbonyl)-1-methylethyl]-1,2,3,4-tetrahydroisoquinoline | 0.36 g | NC1=CC=C2CCN(CC2=C1)C(CC(=O)OCC)C | C15H22N2O2
